US04379154
A suspension of 4-chloromethylpyridine hydrochloride (82 g) in gently boiling ethanol (260 cc) is added dropwise and in the course of 30 minutes to a suspension of thiourea (45.5 g) in boiling ethanol (260 cc). The reaction mixture is stirred for 1 hour 30 minutes at the boil and then cooled to 5° C. The resulting crystals are filtered off, washed twice with ethanol (60 cc in total) and dried under reduced pressure (20 mm Hg; 2.7 kPa) at a temperature of about 20° C. 2-(Pyrid-4-yl-methyl)-isothiourea dihydrochloride (116 g), melting at 260° C., is thus obtained.

reactant | 4-chloromethylpyridine hydrochloride | 82 g | Cl.ClCC1=CC=NC=C1
reactant | thiourea | 45.5 g | NC(=S)N | CH4N2S
solvent | ethanol | 260 cc | C(C)O | C2H6O
solvent | ethanol | 260 cc | C(C)O | C2H6O
product | 2-(Pyrid-4-yl-methyl)-isothiourea dihydrochloride | 116 g | Cl.Cl.N1=CC=C(C=C1)CSC(N)=N | InChI=1S/C7H9N3S.2ClH/c8-7(9)11-5-6-1-3-10-4-2-6;;/h1-4H,5H2,(H3,8,9);2*1H
